US04735959
4-{N-[α-(4-Methyl-phenyl)-2-piperidino-benzyl]-aminocarbonylmethyl}-benzyl alcohol
Two and one-half grams (5.3 m mol) of ethyl 4-{N-[α-(4-methyl-phenyl)-2-piperidino-benzyl]-aminocarbonylmethyl}-benzoate were added in batches to a suspension of 0.5 gm (13.2 m mol) of lithium aluminium hydride in 50 ml of absolute tetrahydrofuran. The mixture was stirred for a further 30 minutes at ambient temperature, decomposed by the dropwise addition of 4N sodium hydroxide solution, and filtered to remove the sodium aluminate formed. The filtrate was concentrated by evaporation, and the residue was recrystallized from a small amount of toluene.

reactant | ethyl 4-{N-[α-(4-methyl-phenyl)-2-piperidino-benzyl]-aminocarbonylmethyl}-benzoate | CC1=CC=C(C=C1)C(C1=C(C=CC=C1)N1CCCCC1)NC(=O)CC1=CC=C(C(=O)OCC)C=C1 | C30H34N2O3
reactant | lithium aluminium hydride | 0.5 gm | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-{N-[α-(4-Methyl-phenyl)-2-piperidino-benzyl]-aminocarbonylmethyl}-benzyl alcohol | CC1=CC=C(C=C1)C(C1=C(C=CC=C1)N1CCCCC1)NC(=O)CC1=CC=C(CO)C=C1 | C28H32N2O2
